US07687491B2
(20b) (4-Ethyl-5-{5-[3-fluoro-4-(3-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methanol
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 12 (12a) using 3-fluoro-4-(3-fluorophenoxy)benzoic acid (0.13 g, 0.53 mmol) that was obtained in Example 20 (20a), 1-hydroxybenzotriazole (74 mg, 0.55 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.11 g, 0.55 mmol), 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-ethyl-N′-hydroxythiophene-2-carboximidamide (0.16 g, 0.50 mmol) that was obtained in Example 10 (10d), and 1.0 M solution of tetrabutylammoniumfluoride in tetrahydrofuran (1.0 mL, 1.0 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:3) as the eluent to afford the title compound (0.18 g) in a yield of 87% as a pale yellow crystalline solid.

reactant | 3-fluoro-4-(3-fluorophenoxy)benzoic acid | 0.53 mmol, 0.13 g | FC=1C=C(C(=O)O)C=CC1OC1=CC(=CC=C1)F | C13H8F2O3
reactant | 1-hydroxybenzotriazole | 0.55 mmol, 74 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.55 mmol, 0.11 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-ethyl-N′-hydroxythiophene-2-carboximidamide | 0.50 mmol, 0.16 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(S1)C(N)=NO)CC | C14H26N2O2SSi
reactant | tetrabutylammoniumfluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 1.0 mmol, 1.0 mL | O1CCCC1 | C4H8O
product | (4-Ethyl-5-{5-[3-fluoro-4-(3-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methanol | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC(=C(C=C1)OC1=CC(=CC=C1)F)F)CO | C21H16F2N2O3S
